US08865894B2
(4S,5R)-3-(2′-Amino-2-morpholino-4′-(trifluoromethyl)-[4,5′-bipyrimidin]-6-yl)-5-(2-hydroxyethyl)-4-methyloxazolidin-2-one
To a solution of (4S,5R)-3-(2′-amino-2-morpholino-4′-(trifluoromethyl)-[4,5′-bipyrimidin]-6-yl)-5-(2-((tert-butyldiphenylsilyl)oxy)ethyl)-4-methyloxazolidin-2-one (2.1 g, 3 mmol) in THF (20 mL), was added dropwise 1M TBAF in THF (3 mL, 3 mmol) at 0° C. The reaction mixture was stirred for 1 h at 0° C. before evaporation. The residue was purified by flash chromatography (hexane/EtOAc/MeOH 90:10:1→0:100:10). The purified product was re-crystallized from MeOH to afford the title compound as a white solid (1.17 g, 83%): tR=0.80 min (UPLC 1), tR=0.82 min (LC-MS 3); ESI-MS: 470 [M+H]+ (LC-MS 3).

reactant | (4S,5R)-3-(2′-amino-2-morpholino-4′-(trifluoromethyl)-[4,5′-bipyrimidin]-6-yl)-5-(2-((tert-butyldiphenylsilyl)oxy)ethyl)-4-methyloxazolidin-2-one | 3 mmol, 2.1 g | NC1=NC=C(C(=N1)C(F)(F)F)C1=NC(=NC(=C1)N1C(O[C@@H]([C@@H]1C)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)N1CCOCC1 | C35H40F3N7O4Si
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mmol, 3 mL | C1CCOC1 | C4H8O
product | (4S,5R)-3-(2′-Amino-2-morpholino-4′-(trifluoromethyl)-[4,5′-bipyrimidin]-6-yl)-5-(2-hydroxyethyl)-4-methyloxazolidin-2-one | 1.17 g, 83% | NC1=NC=C(C(=N1)C(F)(F)F)C1=NC(=NC(=C1)N1C(O[C@@H]([C@@H]1C)CCO)=O)N1CCOCC1 | C19H22F3N7O4
